US04304642
The procedure of Example 1 was repeated using diphenyldisulphide (258 mg) in acetonitrile containing 1-hexene (336 mg) at 1.40 volts until the passage of 2 coulomb equivalents of charge. After the addition of water and extraction with diethyl ether, there was obtained 46 mg of 2-acetamido-1-phenylthio-hexane. Mass Spec. m/e 251 (parent ion). I.R. 1650 cm-1.

reactant | diphenyldisulphide | 258 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | 1-hexene | 336 mg | C=CCCCC | C6H12
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-acetamido-1-phenylthio-hexane | 46 mg | C(C)(=O)NC(CSC1=CC=CC=C1)CCCC | C14H21NOS
